US08236789B2
A solution of 2-adamantylamine (50.0 mg, 0.330 mmol) in ethanol (2 mL) was added with benzaldehyde (56.3 mg, 0.330 mmol) at room temperature, and the resultant was stirred at the same temperature for 1.5 hours. The reaction solution was concentrated in vacuo. The obtained residue was dissolved in toluene (5 mL), and sequentially added with ethyl 2-bromoisobutyrate (109 mg, 0.660 mmol) and zinc (432 mg, 6.60 mmol) at room temperature. The reaction solution was stirred at 130° C. for 5 hours, and added with hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, and concentrated in vacuo. The obtained residue was purified using preparative thin-layer chromatography (hexane:ethyl acetate=3:1), and 1-(adamantan-2-yl)-3,3-dimethyl-4-phenylazetidin-2-one (65.4 mg, 64.0%) was obtained as a white crystalline powder.

reactant | 2-adamantylamine | 0.330 mmol, 50.0 mg | C12C(C3CC(CC(C1)C3)C2)N | C10H17N
reactant | benzaldehyde | 0.330 mmol, 56.3 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethyl 2-bromoisobutyrate | 0.660 mmol, 109 mg | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | zinc | 6.60 mmol, 432 mg | [Zn] | Zn
product | 1-(adamantan-2-yl)-3,3-dimethyl-4-phenylazetidin-2-one | 65.4 mg, 64.0% | C12C(C3CC(CC(C1)C3)C2)N2C(C(C2C2=CC=CC=C2)(C)C)=O | C21H27NO
